US06583135B2
tert-Butyl 10-(2,6-difluorophenyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate (0.700 g, 1.76 mmol) was dissolved in CF3CO2H (4 mL) and CH2Cl2 (14 mL) and the reaction mixture was stirred at rt for 3 h. The reaction mixture was cooled in an ice bath and quenched with cold 1N NaOH (100 mL). The resulting mixture was extracted with 3% CH3OH in CH2Cl2 (3×50 mL). The combined organic extracts were dried over Na2SO4, filtered and concentrated. The crude product (0.51 g) was chromatographed (SiO2 30 g, eluted with 90:10:1 CH2Cl2:CH3OH:conc. NH4OH) to yield 10-(2,6-difluorophenyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole (0.458 g) in 87% yield. 1H NMR (400 MHz, Acetone-d6) δ 2.35-2.38, 2.74-2.77, 2.95-2.98, 6.84, 7.08, 7.12, 7.36, 7.50; MS (ESI+) for C18H16F2N2 m/z 299.1 (M+H)+.

reactant | tert-Butyl 10-(2,6-difluorophenyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 1.76 mmol, 0.700 g | FC1=C(C(=CC=C1)F)C=1C=2C3=C(NC2C=CC1)CCN(CC3)C(=O)OC(C)(C)C | C23H24F2N2O2
reactant | CH2Cl2 | 14 mL | C(Cl)Cl | CH2Cl2
solvent | CF3CO2H | 4 mL | C(F)(F)(F)C(=O)O | C2HF3O2
product | 10-(2,6-difluorophenyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | 0.458 g, 87% yield | FC1=C(C(=CC=C1)F)C=1C=2C3=C(NC2C=CC1)CCNCC3 | C18H16F2N2
